US09079866B2
Step B: 4′-(5-Aminopyrazin-2-yl)-3′-fluoro-[1,1′-biphenyl]-2-sulfonamide
A solution of 4′-(5-aminopyrazin-2-yl)-N-(tert-butyl)-3′-fluoro-[1,1′-biphenyl]-2-sulfonamide (130.0 g, 298.0 mmol), anisole (97.4 mL, 894.0 mmol), and TFA (228.0 mL, 2.98 mol) was stirred at 60° Celsius for 16 hours. The reaction was cooled to rt, concentrated to dryness, and partitioned between 600 mL H2O and 600 mL acetone. 750 mL sat. NaHCO3 (aq), was added over 30 min. The resulting precipitate was isolated via filtration and rinsed with 300 mL H2O then 300 mL acetone. The precipitate was triturated with 1.5 L acetone at 50° Celsius for 16 hours. After cooling to room temperature the solid was collected by filtration and rinsed twice with 250 mL acetone then dried in a vacuum oven at 50° Celsius for 16 hours yielding the title compound (74.3 g, 72.4%). MS (ESI): mass calcd. for C16H13FN4O2S, 344.07; m/z found, 345.1 [M+H]+. 1H NMR (600 MHz, DMSO-d6) δ 8.44-8.36 (s, 1H), 8.10-8.02 (m, 2H), 7.92-7.85 (m, 1H), 7.69-7.59 (m, 2H), 7.43-7.35 (m, 3H), 7.35-7.27 (m, 2H), 6.77-6.69 (s, 2H). Elemental analysis: calcd. for C16H13FN4O2S, C, 55.80; H, 3.81; N, 16.27; measured: C, 55.43; H, 3.54; N, 16.22.

reactant | 4′-(5-aminopyrazin-2-yl)-N-(tert-butyl)-3′-fluoro-[1,1′-biphenyl]-2-sulfonamide | 298.0 mmol, 130.0 g | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)NC(C)(C)C)F | C20H21FN4O2S
reactant | anisole | 894.0 mmol, 97.4 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | TFA | 2.98 mol, 228.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4′-(5-Aminopyrazin-2-yl)-3′-fluoro-[1,1′-biphenyl]-2-sulfonamide | 74.3 g, 72.4% | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)N)F | C16H13FN4O2S
